US07947712B2
To a suspension of N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide (800 mg, 1.84 mmol) in methylenechloride (30 ml) cooled to 0 C was added DIEA (300 mg, 2.32 mmol) followed by chloroacetyl chloride (300 mg, 2.65 mmol). Purification by flush chromatography (eluent 30% acetone/DCM) afforded 500 mg (53%) of 2-chloro-N-(3-{(5-chloro-8-hydroxyquinolin-7-yl)[(phenoxyacetyl)amino]methyl}phenyl)acetamide an off-white solid.

reactant | N-[(3-aminophenyl)(5-chloro-8-hydroxyquinolin-7-yl)methyl]-2-phenoxyacetamide | 1.84 mmol, 800 mg | NC=1C=C(C=CC1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C24H20ClN3O3
reactant | DIEA | 2.32 mmol, 300 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 2.65 mmol, 300 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | methylenechloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(3-{(5-chloro-8-hydroxyquinolin-7-yl)[(phenoxyacetyl)amino]methyl}phenyl)acetamide | 500 mg, 53% | ClCC(=O)NC1=CC(=CC=C1)C(NC(COC1=CC=CC=C1)=O)C1=CC(=C2C=CC=NC2=C1O)Cl | C26H21Cl2N3O4
